US08304419B2
Step B: 3-{[3-(Bromomethyl)-2-chloro-6-fluorophenyl]oxy}-5-chlorobenzonitrile
The title compound was prepared as described herein using 3-chloro-5-[(2-chloro-6-fluoro-3-methylphenyl)oxy]benzonitrile (940 mg, 3.17 mmol), NBS (593 mg, 3.33 mmol) and AIBN (26.1 mg, 0.159 mmol) in CCl4 (30.0 ml) to give the title compound as a white solid (728 mg, 61%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.41 (1H, dd, J=8.7, 5.3 Hz) 7.36 (1H, s) 7.18 (1H, s) 7.12-7.16 (1H, m) 6.99 (1H, s) 4.58 (2H, s). LCMS: m/z 375 (M+1).

reactant | 3-chloro-5-[(2-chloro-6-fluoro-3-methylphenyl)oxy]benzonitrile | 3.17 mmol, 940 mg | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1F)C)Cl | C14H8Cl2FNO
reactant | NBS | 3.33 mmol, 593 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 30.0 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 0.159 mmol, 26.1 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 3-{[3-(Bromomethyl)-2-chloro-6-fluorophenyl]oxy}-5-chlorobenzonitrile | 728 mg, 61% | BrCC=1C(=C(C(=CC1)F)OC=1C=C(C#N)C=C(C1)Cl)Cl | C14H7BrCl2FNO
